US07368578B2
To a solution of ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylate (0.49 g) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (0.06 g) at 0° C. and the mixture was stirred at room temperature for 1 hr. Sodium sulfate decahydrate (0.45 g) was added to the reaction mixture, and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate and the precipitate was filtered off. The filtrate was concentrated to give {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazol-4-yl}methanol as colorless crystals (0.41 g, yield 91%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 91-92° C.

reactant | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylate | 0.49 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C30H29N3O6
reactant | lithium aluminum hydride | 0.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 0.45 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.41 g, yield 91% | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C28H27N3O5
